US06369076B1
A mixture of 8 g of (5-benzyl-2-oxo-cyclohexyl)-acetic acid ethyl ester, 3.4 g of acetic acid, 3.75 g of benzylamine, 50 mL of 1,2-dichloroethane and 7.7 g of sodium triacetoxyborohydride was stirred at room temperature for 48 h. The reaction mixture was diluted with 100 mL chloroform and 40 mL saturated aqueous Na2CO3 and the layers separated. The aqueous layer was extracted with 2×25 mL of chloroform and the combined organic layers dried over magnesium sulfate and concentrated under reduced pressure. Purification by chromatography eluting with 50% ethyl acetate in hexane gave 5 g of 1,5-dibenzyl-octahydro-indol-2-one.

reactant | (5-benzyl-2-oxo-cyclohexyl)-acetic acid ethyl ester | 8 g | C(C)OC(CC1C(CCC(C1)CC1=CC=CC=C1)=O)=O | C17H22O3
reactant | acetic acid | 3.4 g | C(C)(=O)O | C2H4O2
reactant | benzylamine | 3.75 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium triacetoxyborohydride | 7.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | Na2CO3 | 40 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
product | 1,5-dibenzyl-octahydro-indol-2-one | 5 g | C(C1=CC=CC=C1)N1C(CC2CC(CCC12)CC1=CC=CC=C1)=O | C22H25NO
